Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][O:3][C@@:4]([H:5])([C:6][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7],4.830114706630001
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3][H:4],4.726954060340001
[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8],1.3750277431600002
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:11].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],4.84735089334
[H:1][C:2]([H:3])=[C:4]([H:5])[O:7]/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-1.6398281697
[C:3][H:4].[O:1]=[C:2][O:5][C:6]=[C:7]([H:8])[H:9]>>[O:1]=[C:2]([C:3][H:4])[O:5][C:6]=[C:7]([H:8])[H:9],-5.50480539947
[C:2](=[C:3](\[H:4])[C:5]([H:6])([H:7])[H:8])\[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.88649187337
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:1],6.09995366686
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])#[C:5][H:6].[H:1][C:2]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],1.3877794460799997
[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2](=[O:3])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.46054172248
[H:1][O:2][C:3]([H:4])[C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][H:4],3.21967920248
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],5.3325641821300005
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])[H:12]>>[H:6].[O:1]=[C:2]([O:3][H:4])[C:5](=[C:7]([H:8])[H:9])[C:10]([H:11])[H:12],1.63784505143
[C:10]([H:11])([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-0.96297847286
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C@@:6]1([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-0.21290679716
[H:11].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])=[C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.95412292123
[H:1][C:2]=[C:11]([H:12])[H:13].[H:3][C:4]([H:5])=[C:9]([C:6]([H:7])[H:8])[H:10]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.42203144729
[H:1][O:2][C:3]1=[C:4][O:5][C:6]([H:7])([H:8])[C:9]1([H:10])[H:11]>>[H:1][O:2][C:3]([C:4][O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],1.60326605597
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[O:10][H:11].[H:9],1.69606221969
[C:1]#[C:2][O:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[C:1]#[C:2].[O:3]=[C:4]([O:5][H:6])[C:7]([H:8])[H:9],3.3870601018299995
[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-4.30481805368
[H:11].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.7815838798
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-5.665683970669999
[C:6]#[C:7][O:8][C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][C:9]([H:10])[H:11],-4.48141003521
[C:1]=[C:2]([H:3])[H:4].[O:5]=[C:6]([H:7])[C:8]#[C:9]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[C:8]#[C:9],0.14751691984
[H:1][O:2][C@:3]([H:4])([C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3](=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:4],1.7721946698099995
